US06268387B1
Step D: 3-(3,5-Dichlorophenylamino)-4-methoxybenzoic acid methyl ester
Concentrated HCl (45 mL) was added to a solution of 3-[acetyl-(3,5-dichlorophenyl)-amino]-4-methoxybenzoic acid methyl ester (11.46 g, 31.12 mmol) in a mixture of tetrahydrofuran (75 mL) and methanol (75 mL). The reaction was heated to reflux. After 3 days, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate and dried (MgSO4). The ethyl acetate was removed under reduced pressure to give the product (2.4 g); m.p. 134-135° C. after chromatography on silica gel in ethyl acetate followed by recrystallization from ether/hexane 1:9.

reactant | HCl | 45 mL | Cl | ClH
reactant | 3-[acetyl-(3,5-dichlorophenyl)-amino]-4-methoxybenzoic acid methyl ester | 31.12 mmol, 11.46 g | COC(C1=CC(=C(C=C1)OC)N(C1=CC(=CC(=C1)Cl)Cl)C(C)=O)=O | C17H15Cl2NO4
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | methanol | 75 mL | CO | CH4O
product | 3-(3,5-Dichlorophenylamino)-4-methoxybenzoic acid methyl ester | 2.4 g | COC(C1=CC(=C(C=C1)OC)NC1=CC(=CC(=C1)Cl)Cl)=O | C15H13Cl2NO3
